US09107916B2
A. (2E)-1-(4-bromophenyl)-3-(dimethylamino)prop-2-en-1-one
A solution of 1-(4-bromophenyl)ethanone (2.0 g, 10 mmol) in DMF-DMA (25 mL) was stirred at 100° C. for 16 h. The solution was concentrated and purified by flash column chromatography (hexanes:EtOAc=4:1˜2:1) to give the title compound (1.57 g, 61%) as an orange-brown solid.

reactant | 1-(4-bromophenyl)ethanone | 10 mmol, 2.0 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | DMF-DMA | 25 mL | CN(C)C(OC)OC | C5H13NO2
product | (2E)-1-(4-bromophenyl)-3-(dimethylamino)prop-2-en-1-one | 1.57 g, 61% | BrC1=CC=C(C=C1)C(\C=C\N(C)C)=O | C11H12BrNO
